US04150139
By a procedure similar to that described in Example 17, 8-chloro-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine was reacted with m-chloroperbenzoic acid to obtain 8-chloro-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from methanol), m.p. 183°-185° C.

reactant | 8-chloro-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | ClC=1C=CC2=C(C=CN3C(C2)=NN=C3SC)C1 | C12H10ClN3S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 8-chloro-3-methylsulfinyl-11H-s-triazolo[3,4-b][3]benzazepine | ClC=1C=CC2=C(C=CN3C(C2)=NN=C3S(=O)C)C1 | C12H10ClN3OS
